US07109185B2
(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one;
(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(4-methylpiperazin-1-ylmethyl)-1,3-dihydro-2H-indol-2-one; (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-[2(S)-hydroxymethyl-1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one; (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-[2(S)-carboxy-1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one; (3Z)-3-{[3,5-dimethyl-4-(2-diethylaminoethylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one; (3Z)-3-{[3,5-dimethyl-4-(2-ethylaminoethylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one; and (3Z)-3-{[3,5-dimethyl-4-(3-morpholin-4-yl-2-hydroxypropylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one; and 1-({(3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-2-oxo-1,3-dihydro-1H-indol-1-yl}methyl)pyridinium chloride.

reactant | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(4-methylpiperazin-1-ylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCN(CC1)C)=O | C21H26N4O
reactant | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-[2(S)-hydroxymethyl-1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CN1[C@@H](CCC1)CO)=O | C21H25N3O2
reactant | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-[2(S)-carboxy-1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CN1[C@@H](CCC1)C(=O)O)=O | C21H23N3O3
reactant | (3Z)-3-{[3,5-dimethyl-4-(2-diethylaminoethylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1C(=O)NCCN(CC)CC)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCCC1)=O | C27H37N5O2
reactant | (3Z)-3-{[3,5-dimethyl-4-(2-ethylaminoethylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1C(=O)NCCNCC)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCCC1)=O | C25H33N5O2
reactant | (3Z)-3-{[3,5-dimethyl-4-(3-morpholin-4-yl-2-hydroxypropylaminocarbonyl)-1H-pyrrol-2-yl]-methylidene}-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1C(=O)NCC(CN1CCOCC1)O)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCCC1)=O | C28H37N5O4
product | (3Z)-3-[(3,5-dimethyl-1H-pyrrol-2-yl)-methylidene]-1-(1-pyrrolidinylmethyl)-1,3-dihydro-2H-indol-2-one | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)CN1CCCC1)=O | C20H23N3O
